US07619092B2
In 400 ml of tetrahydrofuran was dissolved 31.5 g of 2-chloroisonicotinic acid, and 32.5 g of 1,1′-carbonyldiimidazole was added thereto. The mixture was stirred under ice-cooling for an hour. To the solution was added 50 ml of ethanol, and the mixture was stirred at room temperature for 2 hours. The solution was concentrated, and extracted by adding ethyl acetate and water. The organic layer was dried over magnesium sulfate, and the residue was vacuum dried, to give 35.6 g of ethyl 2-chloroisonicotinate as shown in Table 132 below.

reactant | 2-chloroisonicotinic acid | 31.5 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | 1,1′-carbonyldiimidazole | 32.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | ethyl 2-chloroisonicotinate | 35.6 g | ClC=1C=C(C(=O)OCC)C=CN1 | C8H8ClNO2
